US04081547
2-[4-(hexafluoro-2-hydroxy-2-propyl)-N-methylanilino]-2-oxazoline
Dissolve 10.0 g (26 m. mole) of N-(2-chloroethyl)-N'-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]-N'-methyl-urea in a mixture of 50 ml of methanol and 100 ml of water. Heat for 1 hour on a steam bath. Concentrate, and partition between 1N aqueous sodium bicarbonate solution and ether (diethyl) and then extract with 200 ml of 1N hydrochloric acid. Add sodium bicarbonate and then extract with 200 ml of ether. Dry the ether extract and concentrate to obtain 7.8 g of the title compound as a white solid, m.p. 188°-190° C. The salts may be prepared by standrad techniques such as by treatment of a solution of the free base in a suitable organic solvent, e.g. ether, with the desired acid, e.g. hydrochloric, and then filtering off the precipitated salt. The hydrochloride salt melts at 147°-149° C.

reactant | N-(2-chloroethyl)-N'-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]-N'-methyl-urea | 10.0 g | ClCCNC(=O)N(C)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C13H13ClF6N2O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-[4-(hexafluoro-2-hydroxy-2-propyl)-N-methylanilino]-2-oxazoline | 7.8 g | FC(C(C(F)(F)F)(O)C1=CC=C(N(C)C=2OCCN2)C=C1)(F)F | C13H12F6N2O2
